US05306849
3.9 g of antimony pentafluoride were added to 100 g of 2,6-dimethylphenyl fluoroformate and the mixture was heated at 200° C. for 5 hours at normal pressure. The reaction mixture was then cooled and worked up as described in Example 1. 2,6-Dimethylfluorobenzene was obtained in a yield of 40%.

reactant | antimony pentafluoride | 3.9 g | [Sb](F)(F)(F)(F)F
reactant | 2,6-dimethylphenyl fluoroformate | 100 g | FC(=O)OC1=C(C=CC=C1C)C | C9H9FO2
product | 2,6-Dimethylfluorobenzene | yield of 40% | CC1=C(C(=CC=C1)C)F | C8H9F
